US07935815B2
Synthesis of 5-chloro-2-(3-fluorophenyl)pentanoic acid
A solution of 3-fluorophenylacetic acid (500 mg) in THF (15 mL) was stirred at −78° C. for 5 minutes. A 2.66 M solution of n-butyl lithium in hexane (2.44 mL) was added, and the reaction solution was stirred at −78° C. for three hours. Thereafter, the reaction solution was stirred at 0° C. for one hour, 1-bromo-3-chloropropane was added, and the reaction solution was stirred at room temperature for 17 hours. Thereafter, ethyl acetate and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 734 mg of the title compound. The property values of the compound are as follows.

reactant | 3-fluorophenylacetic acid | 500 mg | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | 2.44 mL | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-(3-fluorophenyl)pentanoic acid | 734 mg | ClCCCC(C(=O)O)C1=CC(=CC=C1)F | C11H12ClFO2
